US09216965B2
Step 1: 6-(tert-butylsulfonyl)-4-chloro-7-(2,2-difluoroethoxy)quinoline:
To a solution of 6-(tert-butylsulfonyl)-4-chloroquinolin-7-ol (100 mg, 0.334 mmol) was added K2CO3 (138 mg, 1.001 mmol) followed by 1,1-difluoro-2-iodoethane (44.1 μl, 0.500 mmol). This was heated to 60° C. overnight. LCMS showed incomplete conversion. Additional 1,1-difluoro-2-iodoethane (44.1 μl, 0.500 mmol) was added and the reaction was stirred at 60° C. for 5 hr. Reaction was still not complete by LCMS, so another aliquot of 1,1-difluoro-2-iodoethane (44.1 μl, 0.500 mmol) was added and the reaction was stirred at 60° C. overnight again. LCMS showed complete and clean conversion to the desired product. The crude sample was purified via Biotage normal phase chromatography (25 g SNAP column, 0% -50%, 50% hex/EtOAc). The pure product containing-fractions were combined and concentrated leading to the product as an off-white solid: 6-(tert-butylsulfonyl)-4-chloro-7-(2,2-difluoroethoxy)quinoline (88.8 mg, 0.244 mmol, 73.2% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.32 (s, 9H) 4.66 (td, J=14.53, 3.54 Hz, 2H) 6.28-6.63 (m, 1H) 7.80 (d, J=4.80 Hz, 1H) 7.85 (s, 1H) 8.67 (s, 1H) 8.97 (d, J=4.80 Hz, 1H). MS: m/z: 364.1 [M+H]+.

reactant | 6-(tert-butylsulfonyl)-4-chloroquinolin-7-ol | 0.334 mmol, 100 mg | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1O)Cl | C13H14ClNO3S
reactant | K2CO3 | 1.001 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,1-difluoro-2-iodoethane | 0.500 mmol, 44.1 μl | FC(CI)F | C2H3F2I
reactant | 1,1-difluoro-2-iodoethane | 0.500 mmol, 44.1 μl | FC(CI)F | C2H3F2I
reactant | 1,1-difluoro-2-iodoethane | 0.500 mmol, 44.1 μl | FC(CI)F | C2H3F2I
product | 6-(tert-butylsulfonyl)-4-chloro-7-(2,2-difluoroethoxy)quinoline | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1OCC(F)F)Cl | C15H16ClF2NO3S
